US08461167B2
Potential Synthesis of N-{3-[(8-aminoisoquinolin-4-yl)ethynyl]-4-methylphenyl}-4-[(4-methylpiperazin-1-yl)methyl]-3-(trifluoromethyl)benzamide
The title compound can be synthesized from 4-ethynylisoquinolin-8-amine and N-(3-iodo-4-methylphenyl)-4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)benzamide in a manner similar to that described for Example 1. 4-ethynylisoquinolin-8-amine is prepared from 4-bromoisoquinolin-8-amine and ethynyitrimethylsilane according to the 2 steps procedure described in example 1.

reactant | 4-ethynylisoquinolin-8-amine | C(#C)C1=CN=CC2=C(C=CC=C12)N | C11H8N2
reactant | N-(3-iodo-4-methylphenyl)-4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)benzamide | IC=1C=C(C=CC1C)NC(C1=CC(=C(C=C1)CN1CCN(CC1)C)C(F)(F)F)=O | C21H23F3IN3O
product | N-{3-[(8-aminoisoquinolin-4-yl)ethynyl]-4-methylphenyl}-4-[(4-methylpiperazin-1-yl)methyl]-3-(trifluoromethyl)benzamide | NC=1C=CC=C2C(=CN=CC12)C#CC=1C=C(C=CC1C)NC(C1=CC(=C(C=C1)CN1CCN(CC1)C)C(F)(F)F)=O | C32H30F3N5O
